US04116962
1-[3-(acetylthio)-2-(methylthiomethyl)propanoyl]-L-proline (1.2 g.) is dissolved in a mixture of water (12 ml.) and concentrated ammonia (12 ml.) under a blanket of argon. After twenty minutes, the reaction mixture is acidified and extracted with ethyl acetate. The organic layer is dried and concentrated to dryness to yield 1-([3-mercapto-2-(methylthiomethyl)propanoyl]-L-proline.

reactant | 1-[3-(acetylthio)-2-(methylthiomethyl)propanoyl]-L-proline | 1.2 g | C(C)(=O)SCC(C(=O)N1[C@H](C(=O)O)CCC1)CSC | C12H19NO4S2
solvent | water | 12 ml | O | H2O
solvent | ammonia | 12 ml | N | H3N
product | [3-mercapto-2-(methylthiomethyl)propanoyl]-L-proline | SCC(C(=O)N1[C@H](C(=O)O)CCC1)CSC | C10H17NO3S2
